US08193359B2
3-(2-Carboxyethoxy)azetidine-1-carboxylic acid tert-butyl ester
A mixture of 3-hydroxyazetidine-1-carboxylic acid tert-butyl ester (350 mg, 2.0 mmol) and NaH (6 mg of a 60% dispersion in mineral oil, 0.15 mmol) was warmed until effervescence had ceased. The mixture was stirred at ambient temperature for 15 min, then methyl acrylate (940 μL, 10.5 mmol) was added. After 3 h, the reaction was diluted with Et2O (50 mL), before being washed with H2O (10 mL) and brine (10 mL) then dried (MgSO4). The Et2O solution was filtered and evaporated, then EtOAc (15 mL) was added. The solvents were removed, then more EtOAc (15 mL) was added, before being evaporated off again to ensure that no methyl acrylate remained. The residue was dissolved in MeOH (3 mL), before being treated with 2 M NaOH (2.0 mL). After 1 h, the MeOH was removed, then H2O (12 mL) and Et2O (10 mL) were added. The Et2O layer was extracted further with H2O (8 mL), then the combined aqueous extracts were acidified to pH 2 with 2 M HCl and the resulting mixture extracted with EtOAc (50+40 mL). The combined organic extracts were washed with brine and dried (MgSO4). Filtration, solvent evaporation and column chromatography (IH-EtOAc, 1:1) gave the title compound: δC (CDCl3): 28.1, 34.8, 56.3, 63.9, 68.0, 79.9, 156.4, 176.2.

reactant | 3-hydroxyazetidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 350 mg | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
reactant | NaH | [H-].[Na+]
reactant | methyl acrylate | 10.5 mmol, 940 μL | C(C=C)(=O)OC | C4H6O2
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 3-(2-Carboxyethoxy)azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)OCCC(=O)O | C11H19NO5
